US04999378
(2) 2-(4-Chlorophenylamino)-1-cyclopentanemethanol
Lithium aluminum hydride (1.60 g) was suspended in THF (70 ml) under ice cooling and thereto a solution of ethyl 2-(4-chlorophenylamino)-1-cyclopentanecarboxylate in THF (about 16 ml) was added gradually, and the mixture was stirred at room temperature for 14 hours. Ethyl acetate and a small amount of 1N aqueous sodium hydroxide solution were added to the reaction mixture to decompose the excess reducing agent. The mixture was filtered and concentrated under reduced pressure to give the oily desired product (3.24 g).

reactant | Lithium aluminum hydride | 1.60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(4-chlorophenylamino)-1-cyclopentanecarboxylate | ClC1=CC=C(C=C1)NC1C(CCC1)C(=O)OCC | C14H18ClNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | about 16 ml | C1CCOC1 | C4H8O
product | 2-(4-Chlorophenylamino)-1-cyclopentanemethanol | 3.24 g | ClC1=CC=C(C=C1)NC1C(CCC1)CO | C12H16ClNO
